US08536175B2
8-Naphthalen-1-yl-quinoxaline-5-carboxylic acid [4-(4-methyl-piperazin-1-yl)-phenyl]-amide
The title compound was prepared in analogy to the procedure described in in Step 14.1 but stirring the reaction mixture overnight and using 4-(4-methylpiperazin-1-yl)-aniline (WO2006000420) and 8-naphthalen-1-yl-quinoxaline-5-carboxylic acid. The latter compound was synthesized as described in Steps 1.2-1.7 but using 1-naphtylboronic acid in Step 1.4. Title compound: ESI-MS: 474.0 [M+H]+; tR=4.34 min (System 1); TLC: Rf=0.45 (DCM/MeOH/NH3aq, 94:5:1).

reactant | 4-(4-methylpiperazin-1-yl)-aniline | CN1CCN(CC1)C1=CC=C(N)C=C1 | C11H17N3
reactant | 8-naphthalen-1-yl-quinoxaline-5-carboxylic acid | C1(=CC=CC2=CC=CC=C12)C1=CC=C(C=2N=CC=NC12)C(=O)O | C19H12N2O2
reactant | 1-naphtylboronic acid | C1(=CC=CC2=CC=CC=C12)B(O)O | C10H9BO2
solvent | DCM MeOH | C(Cl)Cl.CO
product | 8-Naphthalen-1-yl-quinoxaline-5-carboxylic acid [4-(4-methyl-piperazin-1-yl)-phenyl]-amide | CN1CCN(CC1)C1=CC=C(C=C1)NC(=O)C=1C=2N=CC=NC2C(=CC1)C1=CC=CC2=CC=CC=C12 | C30H27N5O
